US06410561B1
To a mixture of 5-nitroanthranilonitrile (1.63 g, 10 mmol) and cyclohexanone (10.3 ml, 100 mmol) was added zinc chloride (1.36 g, 10 mmol) and the mixture was refluxed under heating for 20 min. The reaction mixture was cooled to room temperature and diluted with ethyl acetate, and the insoluble matter was filtered off. The filtrate was concentrated under reduced pressure and chloroform was added to the obtained brown oil. The resulting yellow precipitate was collected by filtration and dried under reduced pressure at 80° C. This solid (1.56 g) was diluted with ethyl acetate and 1N aqueous sodium hydroxide solution, and ether was added. The insoluble matter was collected by filtration and dried under reduced pressure at 80° C. to give 9-amino-7-nitro-1,2,3,4-tetrahydroacridine (810 mg, 33%) as a yellow solid.

reactant | 5-nitroanthranilonitrile | 10 mmol, 1.63 g | [N+](=O)([O-])C1=CC=C(C(C#N)=C1)N | C7H5N3O2
reactant | cyclohexanone | 100 mmol, 10.3 ml | C1(CCCCC1)=O | C6H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 10 mmol, 1.36 g | [Cl-].[Zn+2].[Cl-]
product | 9-amino-7-nitro-1,2,3,4-tetrahydroacridine | 810 mg, 33% | NC=1C2=CC(=CC=C2N=C2CCCCC12)[N+](=O)[O-] | C13H13N3O2
